US06894061B2
4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
A stirred suspension of 8-fluoro-5-(4-methoxyphenylsulfonyl)-6-methyl-5,6-dihydrophenanthridine (1.26 g, 3.29 mmol) and cyclohexene (6.0 mL, 59 mmol) was treated drop-wise with a solution of 1 M boron tribromide (20 mL, 20 mmol) in dichloromethane at room temperature under nitrogen. After stirring for 20 hours at room temperature, a saturated, aqueous, sodium bicarbonate solution (300 mL) was added drop-wise, and the resulting mixture extracted with dichloromethane (6×20 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (1:19 to 1:4 gradient), followed by re-crystallization from a mixture of dichloromethane-hexane to yield the title compound as a homogeneous, white, crystalline, solid (1.1 g, 90%). The melting point, mass spectum, and NMR spectrum of this product were identical to the authentic material prepared in Example 32, Method A, Step e.

reactant | 8-fluoro-5-(4-methoxyphenylsulfonyl)-6-methyl-5,6-dihydrophenanthridine | 3.29 mmol, 1.26 g | FC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C21H18FNO3S
reactant | cyclohexene | 59 mmol, 6.0 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 20 mmol, 1 M, 20 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 300 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | FC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)O)C | C20H16FNO3S
